US07612079B2
(2-Chloro-9-cylopentyl-9H-purin-6-yl)-indan-5-yl-amine
(2-Chloro-9H-purin-6-yl)-indan-5-yl-amine (857 mg, 3 mmol) was dissolved in dry DMF (10 mL). NaH (94 mg, 3.9 mmol) was added in portions and the resulting mixture was stirred for 1 h. Cyclopentyl bromide (760 mg, 5.1 mmol) was then added and the reaction was stirred overnight at 80° C. under N2. After cooling, H2O (50 mL) was added and the mixture was extracted with CH2Cl2 (3×25 mL). The combined extracts were washed with brine (2×25 mL), dried over MgSO4, and evaporated. The residue was purified by flash chromatography (95:5 CH2Cl2/Et2O) to afford the title compound as a white powder (738 mg, 69.5%). TLC (95:5 CH2Cl2/Et2O): RF=0.38.

reactant | (2-Chloro-9H-purin-6-yl)-indan-5-yl-amine | 3 mmol, 857 mg | ClC1=NC(=C2N=CNC2=N1)NC=1C=C2CCCC2=CC1 | C14H12ClN5
reactant | NaH | 3.9 mmol, 94 mg | [H-].[Na+]
reactant | Cyclopentyl bromide | 5.1 mmol, 760 mg | C1(CCCC1)Br | C5H9Br
reactant | H2O | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (2-Chloro-9-cylopentyl-9H-purin-6-yl)-indan-5-yl-amine | 738 mg, 69.5% | ClC1=NC(=C2N=CN(C2=N1)C1CCCC1)NC=1C=C2CCCC2=CC1 | C19H20ClN5
